US04481142
9-chloro-7-(2-chlorophenyl)-2-(methylthio)-5H-pyrimido[5,4-d][2]benzazepine
A mixture of 1.1 g (3.0 mmole) of 9-chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepin-2-thiol, 1.0 ml (10 mmole) of dimethyl sulfate, 20 ml of 1N sodium hydroxide and 10 ml of ethanol was stirred at room temperature for 15 min. The mixture was diluted with water and extracted with methylene chloride. The methylene chloride solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to give an oil. Crystallization from ether gave colorless prisms, mp 187°-188° C.

reactant | 9-chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepin-2-thiol | 3.0 mmole, 1.1 g | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)Cl)C=NC(=N3)S)C=C1 | C18H11Cl2N3S
reactant | dimethyl sulfate | 10 mmole, 1.0 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 9-chloro-7-(2-chlorophenyl)-2-(methylthio)-5H-pyrimido[5,4-d][2]benzazepine | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)Cl)C=NC(=N3)SC)C=C1 | C19H13Cl2N3S
